US04515786
Methyl 11α-cyclohexylamino-2β,3α-diacetoxy-5α-androstane-17β-carboxylate
Methyl 2β-acetoxy-11α-cyclohexylamino-3α-hydroxy-5α-androstane-17β-carboxylate (1.156 g) in chloroform (12.5 ml) containing dry PTSA (1.0 g) was stirred for 20 min. then treated with acetic anhydride (2.9 ml) and the mixture left for 18 h. The mixture was diluted with ethanol and evaporated to give an oil. This was dissolved in ethyl acetate, and washed with dilute ammonia solution (1×) water (1×), dried and evaporated under reduced pressure to give a foam. This was purified by preparative t.l.c. in chloroform/methanol (9:1) to give the title compound (790 mg), [α]D +36.8°, νmax 1724 cm-1.

reactant | Methyl 2β-acetoxy-11α-cyclohexylamino-3α-hydroxy-5α-androstane-17β-carboxylate | 1.156 g | C(C)(=O)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NC1CCCCC1)C(=O)OC)O | C29H47NO5
reactant | PTSA | 1.0 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | acetic anhydride | 2.9 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 12.5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 11α-cyclohexylamino-2β,3α-diacetoxy-5α-androstane-17β-carboxylate | 790 mg | C1(CCCCC1)N[C@H]1[C@@H]2[C@]3(C[C@@H]([C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)C(=O)OC)OC(C)=O)OC(C)=O)C | C31H49NO6
